US07691850B2
c) 4-bromo-2-fluoro-5-nitrophenol
A solution of 4-bromo-2-fluoro-5-nitrophenyl ethyl carbonate (35 g, 113 mmole) in MeOH (200 mL) was treated with sodium bicarbonate (19 g, 227 mmole). The reaction mixture was stirred at 60 C for 4 hours. The methanol was evaporated under vacuum. Water (55 mL) was added to the residue and the aqueous layer was acidified to pH=5 by addition of a solution of 6N hydrogen chloride. The aqueous layer was extracted twice with ethyl acetate. The combined organic layers were dried over magnesium sulfate and evaporated under vacuum to afford the title compound (25 g, 93%) as a yellow solid. LC-MS (ES) (M+H)+ m/z=237.

reactant | 4-bromo-2-fluoro-5-nitrophenyl ethyl carbonate | 113 mmole, 35 g | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])Br)F)(OCC)=O | C9H7BrFNO5
reactant | sodium bicarbonate | 227 mmole, 19 g | C([O-])(O)=O.[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | 4-bromo-2-fluoro-5-nitrophenol | 25 g, 93% | BrC1=CC(=C(C=C1[N+](=O)[O-])O)F | C6H3BrFNO3
